US07858784B2
Synthesis of N-methylquinolin-6-amine (FIG. 11, Table 7, Entry 4)
Following general procedure A, a mixture of 6-chloroquinoline (164 mg, 1.0 mmol), 2M methylamine (1 mL, 2.0 mmol), NaOt-Bu (120 mg, 1.2 mmol), BrettPhos precatalyst 10 (8 mg, 0.01 mmol), and t-BuOH (1 mL) was stirred at room temperature for 17 h. The crude product was purified via column chromatography (99:1 to 97:3 CH2Cl2/MeOH gradient) to provide the title compound as a yellow oil (150 mg, 95%). 1H NMR (400 MHz, CDCl3) δ: 8.62 (dd, J=4.2, 1.7 Hz, 1H), 7.94 (d, J=8.3 Hz, 1H), 7.88 (d, J=9.1 Hz, 1H), 7.26 (dd, J=8.3, 4.2 Hz, 1H), 7.09 (dd, J=9.1, 2.6 Hz, 1H), 6.68 (d, J=2.6 Hz, 1H), 4.19 (bs, 1H), 2.93 (s, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 147.4, 146.1, 143.3, 133.9, 130.3, 130.2, 121.5, 102.4, 30.8 ppm.

reactant | 6-chloroquinoline | 1.0 mmol, 164 mg | ClC=1C=C2C=CC=NC2=CC1 | C9H6ClN
reactant | methylamine | 2.0 mmol, 2M, 1 mL | CN | CH5N
reactant | NaOt-Bu | 1.2 mmol, 120 mg | CC(C)(C)[O-].[Na+]
catalyst | BrettPhos precatalyst | 0.01 mmol, 8 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | t-BuOH | 1 mL | CC(C)(C)O | C4H10O
product | N-methylquinolin-6-amine | 150 mg, 95% | CNC=1C=C2C=CC=NC2=CC1 | C10H10N2
